US09290504B2
To (S)-benzyl 2-(8-amino-1-(4-(pyridin-2-ylcarbamoyl)phenyl)imidazo[1,5-a]pyrazin-3-yl)pyrrolidine-1-carboxylate (0.146 mmol, 78 mg) was added a 33% hydrobromic acid/acetic acid solution (11.26 mmol, 2 ml) and the mixture was left at room temperature for 1 hour. The mixture was diluted with water and extracted with dichloromethane. The aqueous phase was neutralized using 2N sodium hydroxide solution, and then extracted with dichloromethane. the organic layer was dried over magnesium sulfate, filtered and evaporated to give 34 mg of (S)-4-(8-Amino-3-(pyrrolidin-2-yl)imidazo[1,5-a]pyrazin-1-yl)-N-(pyridin-2-yl)benzamide (58%).

reactant | (S)-benzyl 2-(8-amino-1-(4-(pyridin-2-ylcarbamoyl)phenyl)imidazo[1,5-a]pyrazin-3-yl)pyrrolidine-1-carboxylate | 0.146 mmol, 78 mg | NC=1C=2N(C=CN1)C(=NC2C2=CC=C(C=C2)C(NC2=NC=CC=C2)=O)[C@H]2N(CCC2)C(=O)OCC2=CC=CC=C2 | C30H27N7O3
reactant | hydrobromic acid acetic acid | 11.26 mmol, 2 ml | Br.C(C)(=O)O
solvent | water | O | H2O
product | (S)-4-(8-Amino-3-(pyrrolidin-2-yl)imidazo[1,5-a]pyrazin-1-yl)-N-(pyridin-2-yl)benzamide | 34 mg, 58% | NC=1C=2N(C=CN1)C(=NC2C2=CC=C(C(=O)NC1=NC=CC=C1)C=C2)[C@H]2NCCC2 | C22H21N7O
